US08877782B2
5-(3-Methyl-[1,2,4]oxadiazol-5-yl)-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine
To a stirred solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (500 mg, 1.6 mmol), N-ethyldiisopropylamine (1.04 g, 2.0 mmol) and 1-hydroxybenzotriazole hydrate (40 mg, 0.3 mmol) in DMF (16 mL) at ambient temperature and under argon was added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (517 mg, 1.6 mmol) followed by N-hydroxymethylacetamidine (149 mg, 2.0 mmol). After 14 h the mixture was diluted with water (15 mL) and extracted with EtOAc (3×25 mL). The combined extracts were washed with 10% aqueous LiCl solution (2×10 mL) then dried over sodium sulfate, filtered and concentrated. The residue was then dissolved in DMF (16 mL) and heated at 140° C. for 3 h then cooled, diluted with EtOAc (60 mL), washed with 10% aqueous LiCl (3×100 mL), then dried over sodium sulfate, filtered and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate 8:2 to 0:1) afforded the title compound (385 mg, 69%) as a yellow solid. MS: m/e=349.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 1.6 mmol, 500 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | N-ethyldiisopropylamine | 2.0 mmol, 1.04 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole hydrate | 0.3 mmol, 40 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 1.6 mmol, 517 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-hydroxymethylacetamidine | 2.0 mmol, 149 mg | OCNC(C)=N | C3H8N2O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | 5-(3-Methyl-[1,2,4]oxadiazol-5-yl)-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine | 385 mg, 69% | CC1=NOC(=N1)C=1C=CC(=NC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C19H16N4O3
